US04415572
6-[4-(3,4-Dimethoxybenzoyl)-1-piperazinyl]-3,4-dihydrocarbostyril (500 mg) and 70 mg of 60% oily sodium hydride were mixed with 5 ml of DMF and stirred at room temperature for 1 hour. Then, to the mixture was added dropwise 3 ml of DMF solution containing 0.17 ml of benzylchloride. After stirring for 4 hours at room temperature, the reaction mixture was poured into a large amount of water and organic substances were extracted with chloroform. The chloroform layer was washed with water and dehydrated. Chloroform was distilled off and the residue was recrystallized from ethanol to give 150 mg of 1-benzyl-6-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]-3,4-dihydrocarbostyril hemihydrate, m.p. 131.5°-132.5° C., yellow powders. Elemental Analysis for

reactant | 6-[4-(3,4-Dimethoxybenzoyl)-1-piperazinyl]-3,4-dihydrocarbostyril | 500 mg | COC=1C=C(C(=O)N2CCN(CC2)C=2C=C3CCC(NC3=CC2)=O)C=CC1OC | C22H25N3O4
reactant | sodium hydride | 70 mg | [H-].[Na+]
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
reactant | benzylchloride | 0.17 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | water | O | H2O
product | 1-benzyl-6-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]-3,4-dihydrocarbostyril hemihydrate | 150 mg | O.C(C1=CC=CC=C1)N1C(=O)CCC2=CC(=CC=C12)N1CCN(CC1)C(C1=CC(=C(C=C1)OC)OC)=O.C(C1=CC=CC=C1)N1C(=O)CCC2=CC(=CC=C12)N1CCN(CC1)C(C1=CC(=C(C=C1)OC)OC)=O | InChI=1S/2C29H31N3O4.H2O/c2*1-35-26-12-8-23(19-27(26)36-2)29(34)31-16-14-30(15-17-31)24-10-11-25-22(18-24)9-13-28(33)32(25)20-21-6-4-3-5-7-21;/h2*3-8,10-12,18-19H,9,13-17,20H2,1-2H3;1H2
